US08729071B2
To a solution of 6-bromo-3-chloropicolinaldehyde (10.0 g, 45.45 mmol) in 200 mL THF stirring at −78° C. under N2 was slowly added methylmagnesium bromide (3.0 M in diethyl ether, 16.63 mL, 50 mmol). The reaction was stirred at this temperature for 3 hours, and then saturated ammonium chloride was added. The mixture was extracted with EtOAc. The combined organic layers were dried (MgSO4), filtered, and concentrated in vacuo. The residue was purified by silica gel chromatography (0-10% EtOAc/hexanes over 20 minutes) to provide 1-(6-bromo-3-chloropyridin-2-yl)ethanol (8.4 g, 78%).

reactant | 6-bromo-3-chloropicolinaldehyde | 45.45 mmol, 10.0 g | BrC1=CC=C(C(=N1)C=O)Cl | C6H3BrClNO
reactant | methylmagnesium bromide | 50 mmol, 3.0 M, 16.63 mL | C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 1-(6-bromo-3-chloropyridin-2-yl)ethanol | 8.4 g, 78% | BrC1=CC=C(C(=N1)C(C)O)Cl | C7H7BrClNO
